US08557830B2
A mixture of 4-(8-(3-(1-(4-methoxybenzyl)-1H-pyrazolo[3,4-d]pyrimidin-4-yl)pyridin-2-ylamino)-7-methylquinazolin-4-ylamino)benzonitrile (120 mg, 203 μmol) in TFA (3 ml) was heated at 65° C. for 3 hr. TFA was removed under vacuum. MeOH (2N, NH3) (20 ml) was added and then solvent was removed under vacuum. The product was purified by flash chromatography eluting with MeOH/DCM (1-5%) to give 4-(8-(3-(1H-pyrazolo[3,4-d]pyrimidin-4-yl)pyridin-2-ylamino)-7-methylquinazolin-4-ylamino)benzonitrile. MS (ESI pos. ion) m/z 471 (M+H+).

reactant | 4-(8-(3-(1-(4-methoxybenzyl)-1H-pyrazolo[3,4-d]pyrimidin-4-yl)pyridin-2-ylamino)-7-methylquinazolin-4-ylamino)benzonitrile | 203 μmol, 120 mg | COC1=CC=C(CN2N=CC=3C2=NC=NC3C=3C(=NC=CC3)NC=3C(=CC=C2C(=NC=NC32)NC3=CC=C(C#N)C=C3)C)C=C1 | C34H26N10O
solvent | TFA | 3 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | 4-(8-(3-(1H-pyrazolo[3,4-d]pyrimidin-4-yl)pyridin-2-ylamino)-7-methylquinazolin-4-ylamino)benzonitrile | N1N=CC=2C1=NC=NC2C=2C(=NC=CC2)NC=2C(=CC=C1C(=NC=NC21)NC2=CC=C(C#N)C=C2)C | C26H18N10
